US07572820B2
1-(Cyclopropylmethyl)-5-nitro-1H-indazole
Synthesized as described in Example 4 using 5-nitro-1H-indazole and (bromomethyl)cyclopropane to afford a mixture of regioisomers. The following data are for the title regioisomer: 1H NMR (400 MHz, CDCl3) δ 8.73 (d, J=2.0 Hz, 1H), 8.26 (dd, J=9.3 and 2 Hz, 1H), 8.20 (s, 1H), 7.48 (d, J=9.3 Hz, 1H), 4.31 (d, J=6.8 Hz, 2H), 1.35 (m, 1H), 0.62 (m, 2H), 0.44 (m, 2H); MS (ES) m/z 218 (M+1).

reactant | 5-nitro-1H-indazole | [N+](=O)([O-])C=1C=C2C=NNC2=CC1 | C7H5N3O2
reactant | (bromomethyl)cyclopropane | BrCC1CC1 | C4H7Br
product | 1-(Cyclopropylmethyl)-5-nitro-1H-indazole | C1(CC1)CN1N=CC2=CC(=CC=C12)[N+](=O)[O-] | C11H11N3O2
